US07511050B2
Step A: 3-hydroxy-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A solution of (2z)-3-pentyl-3,7-dihydro-1h-purine-2,6-dione 2-hydrazone (200 mg, 0.846 mmol), N,N-carbonyldiimidazole (1.65 g, 10.2 mmol) in THF (10 ml) was stirred at 70° C. overnight. The reaction mixture was then heated in microwave reactor at 100° C. for 10 min. The reaction was completed checked by LCMS analysis. The reaction mixture was concentrated, diluted with EtOAc and washed with sat. NaHCO3. The aqueous was extracted with EtOAc (3×). The combined organic layers were dried (MgSO4) and concentrated to yield the desired product (230 mg, 98.4%). LCMS calculated for C11H15N6O2 (M+H) 263.1; found: 263.1.

reactant | (2z)-3-pentyl-3,7-dihydro-1h-purine-2,6-dione 2-hydrazone | 0.846 mmol, 200 mg | C(CCCC)N1\C(\NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | N,N-carbonyldiimidazole | 10.2 mmol, 1.65 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-hydroxy-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 230 mg, 98.4% | OC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C11H14N6O2
